US05464796
b) Diethyl (2-bromo-3,4,5,6-tetrafluoro-benzoyl)malonate
15.9 g (0.167 mol) of magnesium chloride in 150 ml of anhydrous acetonitrile (dried over zeolite) are initially introduced into the reaction vessel and 26.9 g (0.167 mol) of diethyl malonate are added dropwise, while cooling. The mixture is cooled to 0° C., 46 ml (33.7 g=0.33 mol) of triethylamine are added dropwise and the mixture is subsequently stirred for 30 minutes. 48.9 g (0.168 mol) of 2-bromo-3,4,5,6-tetrafluorobenzoyl chloride are then added dropwise and the mixture is subsequently stirred at 0° C. for a further hour and brought to room temperature overnight. 100 ml of 5N hydrochloric acid are added, the mixture is extracted three times with methylene chloride and the extract is dried with Na2SO4 and concentrated in vacuo.

reactant | magnesium chloride | 0.167 mol, 15.9 g | [Cl-].[Mg+2].[Cl-]
reactant | diethyl malonate | 0.167 mol, 26.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | triethylamine | 0.33 mol, 46 ml, 33.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-3,4,5,6-tetrafluorobenzoyl chloride | 0.168 mol, 48.9 g | BrC1=C(C(=O)Cl)C(=C(C(=C1F)F)F)F | C7BrClF4O
reactant | hydrochloric acid | 5N, 100 ml | Cl | ClH
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Diethyl (2-bromo-3,4,5,6-tetrafluoro-benzoyl)malonate | BrC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=C(C(=C1F)F)F)F | C14H11BrF4O5
